US07429609B2
4-methoxy-3-(E)-styryl-1H-indazole-5-carboxylic acid
22 mg of 4-methoxy-3-(E)-styryl-1H-indazole-5-carboxylic acid amide was added to 3 mL of 4N lithium hydroxide aqueous solution, and stirred at 110° C. for 4 hours. After cooling on ice, the reaction solution was neutralized with 2N hydrochloric acid under ice cooling, and the precipitated crystals were collected by filtration and washed with water. This was then dried under reduced pressure, to afford 20 mg of the title compound as brown crude crystals.

reactant | 4-methoxy-3-(E)-styryl-1H-indazole-5-carboxylic acid amide | 22 mg | COC1=C2C(=NNC2=CC=C1C(=O)N)\C=C\C1=CC=CC=C1 | C17H15N3O2
reactant | lithium hydroxide | 4N, 3 mL | [OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
product | 4-methoxy-3-(E)-styryl-1H-indazole-5-carboxylic acid | 20 mg | COC1=C2C(=NNC2=CC=C1C(=O)O)\C=C\C1=CC=CC=C1 | C17H14N2O3
